US06413724B1
Methyl 2-(p-Nitrophenyl)carbamoyl-4,5-difluorobenzoate
Methyl 4,5-difluoroanthranilate (0.19 g, 1 mmol) in THF (1.5 ml) was added at ca. 0° C. to p-nitrophenyl chloroformate (0.21 g, 1.05 mmol) in pyridine (0.089 ml, 1.1 mmol) and dry acetonitrile (2.0 ml). The mixture was stirred at r.t. for 2 h. Solvent was removed in vacuo, and the residue triturated with ethyl ether (ca. 3 ml), filtered, washed with ether (2×2 ml), water (3×3 ml), hexanes (3×5 ml), and dried in vacuo. Yield 0.27 g (77%). 1H NMR in CDCl3 (δ,ppm): 3.98 (s, 3 H), 7.40 (d, J=8.1 Hz, 2 H), 7.90 (m, 1 H), 8.30 (d, J 8.1 Hz, 2 H), 8.38 (m, 1 H), 11.07 (s, 1 H).

reactant | Methyl 4,5-difluoroanthranilate | 1 mmol, 0.19 g | FC=1C=C(C(C(=O)OC)=CC1F)N | C8H7F2NO2
reactant | p-nitrophenyl chloroformate | 1.05 mmol, 0.21 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | pyridine | 1.1 mmol, 0.089 ml | N1=CC=CC=C1 | C5H5N
reactant | THF | 1.5 ml | C1CCOC1 | C4H8O
solvent | acetonitrile | 2.0 ml | C(C)#N | C2H3N
product | Methyl 2-(p-Nitrophenyl)carbamoyl-4,5-difluorobenzoate | [N+](=O)([O-])C1=CC=C(C=C1)NC(=O)C1=C(C(=O)OC)C=C(C(=C1)F)F | C15H10F2N2O5
